US08389508B2
To a solution of 5-[3-(2-ethyl-3-formylphenyl)-1,2,4-thiadiazol-5-yl]-2-(2-methylpropyl)benzonitrile (D63) (100 mg) in dichloromethane (DCM) (15 mL) was added sodium acetate (22.9 mg), ethyl 4-piperidinecarboxylate (46.1 mg) and 5 drops of acetic acid. After stirring for 30 min, sodium triacetoxyborohydride (85 mg) was added and the reaction solution was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate (30 mL), the organic phase was washed with water, dried over sodium sulphate and concentrated. The residue was dissolved in isopropanol/water (10 mL, 1:1), 0.5M sodium hydroxide (2.66 mL) was added. The reaction solution was stirred at room temperature overnight. The isopropanol was removed in vacuo and the residue was acidified to pH=3-4. The resulting solution was extracted with ethyl acetate (2*15 mL), and the combined organic phases were dried over sodium sulphate, concentrated and purified by Mass Directed AutoPrep to afford 1-[(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,2,4-thiadiazol-3-yl}-2-ethylphenyl)methyl]-4-piperidinecarboxylic acid (E28) (43 mg). δH (DMSO-d6, 400 MHz): 0.87 (6H, d), 1.03 (3H, t), 1.47 (2H, m), 1.71 (2H, m), 1.92 (3H, m), 2.01 (1H, m), 2.70 (4H, m), 2.93 (2H, q), 3.47 (2H, s), 7.24 (1H, t), 7.39 (1H, dd), 7.66 (2H, m), 8.26 (1H, dd), 8.47 (1H, d).

reactant | 5-[3-(2-ethyl-3-formylphenyl)-1,2,4-thiadiazol-5-yl]-2-(2-methylpropyl)benzonitrile | 100 mg | C(C)C1=C(C=CC=C1C=O)C1=NSC(=N1)C=1C=CC(=C(C#N)C1)CC(C)C | C22H21N3OS
reactant | sodium acetate | 22.9 mg | C(C)(=O)[O-].[Na+]
reactant | ethyl 4-piperidinecarboxylate | 46.1 mg | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | sodium triacetoxyborohydride | 85 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 1-[(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,2,4-thiadiazol-3-yl}-2-ethylphenyl)methyl]-4-piperidinecarboxylic acid | 43 mg | C(#N)C=1C=C(C=CC1CC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)CN1CCC(CC1)C(=O)O)CC | C28H32N4O2S
